US03950329
As described in Belgian Patent 770,531, to a solution of 1.80 g (3.4 mmole) of benzhydryl 3-hydroxymethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide in 100 ml of acetone at 0° was added over the period of 2 min. 0.90 ml of 8N CrO3 in H2SO4 and the mixture was stirred at 0° for 5 min., then poured into a mixture of 300 ml ethyl acetate and 300 ml of water and the ethyl acetate layer was washed with water, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica with CHCl3 to yield 0.716 g of benzhydryl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide after crystallization from methanol; uv max (C2H5OH): 269 nm (4600), 292 nm (4300), and 355 nm (1760); nmr (dmso-d6): 3.75 and 4.32 (AB, 2 (JAB = 19 Hz), C2 -CH2), 3.88 (s, 2, α-thienyl CH2), 5.08 (d, 1 (J = 5 Hz), C6 -H), 6.18 (dd, 1 (J = 5 Hz, J' = 8.5 Hz), C -H), 7.17 (1, s, -CO2CH Ph2), 7.02 (d, 2 (J = 3.0 Hz), thiophene 3- and 5-H), 7.44 (10, s, phenyl-H), 8.72 (d, 1 (J = 8.5 Hz), amide N-H), and 9.85 (s, 1, aldehyde-H).

reactant | benzhydryl 3-hydroxymethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide | 3.4 mmole, 1.80 g | OCC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O)=O | C27H24N2O6S2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 300 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | benzhydryl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide | 0.716 g | C(=O)C=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O)=O | C27H22N2O6S2
